US05405851
1,2,5,6-tetrahydro-3-methyl-1-oxobenzo[f]quinazoline (5 g, 0.024 mole) was added to chlorosulfonic acid (50 ml, Aldrich) and stirred for 12 hours at room temperature. The reaction mixture was poured over ice (750 g), and the dark brown solid collected by filtration. The solid was washed with water, suspended in water (500 ml), and the pH of the suspension adjusted to 5.00 by addition of sodium bicarbonate. The suspension was filtered, the product washed with H2O and dried under high vacuum at room temperature to give 1,2,5,6-tetrahydro-3-methyloxobenzo[f]quinazolin-9-sulfonyl chloride as a light brown solid (3.054 g, 41%). 1H NMR (DMSO-d6, 300 MHz) δ: 2.60 (s, 3H, CH3); 2.90 (s, 4H, Ar CH2); 7.22 (d, J=9 Hz, 1H, Ar); 7.53 (d, J=9 Hz, 1H, Ar); 8.75 (s, 1H, Ar).

reactant | 1,2,5,6-tetrahydro-3-methyl-1-oxobenzo[f]quinazoline | 0.024 mole, 5 g | CC1=NC=2CCC3=C(C2C(N1)=O)C=CC=C3 | C13H12N2O
reactant | chlorosulfonic acid | 50 ml | ClS(=O)(=O)O | ClHO3S
product | 1,2,5,6-tetrahydro-3-methyloxobenzo[f]quinazolin-9-sulfonyl chloride | 3.054 g, 41% | CC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)Cl | C13H11ClN2O3S
